US05112947
(4) H-Asn-Ser-D-Pro-Arg-OH acetate
100 mg of Z-Asn-Ser(Bzl)-D-Pro-Arg(NO2)-OBzl was reduced in the presence of palladium-carbon in the same manner as in Example 7-(4). The resulting product was purified by high-performance liquid chromatography at 12 ml/min.(flow rate), 0 to 10% (B) 20 min. linear gradient (A) (mobile phase), subjected to Dowex 1×2 (acetate type) treatment and freeze-dried to obtain the desired compound.

reactant | Z-Asn-Ser(Bzl)-D-Pro-Arg(NO2)-OBzl | 100 mg | N([C@@H](CC(N)=O)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)N1[C@@H](C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OCC1=CC=CC=C1 | C40H49N9O11
catalyst | palladium-carbon | [C].[Pd]
product | H-Asn-Ser-D-Pro-Arg-OH acetate | N[C@@H](CC(N)=O)C(=O)N[C@@H](CO)C(=O)N1[C@@H](C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)CCC1.CC(=O)O | InChI=1S/C18H32N8O7.C2H4O2/c19-9(7-13(20)28)14(29)25-11(8-27)16(31)26-6-2-4-12(26)15(30)24-10(17(32)33)3-1-5-23-18(21)22;1-2(3)4/h9-12,27H,1-8,19H2,(H2,20,28)(H,24,30)(H,25,29)(H,32,33)(H4,21,22,23);1H3,(H,3,4)/t9-,10-,11-,12+;/m0./s1
